US07268231B2
To a mixture of 2-acetylamino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester (47.1 mg, 0.17 mmol), 1,5-naphthyridine-6-carboxaldehyde (31.6 mg, 0.2 mmol) and iPrOH (5.0 mL) in a 25-mL round bottom flask was added piperidine (0.05 mL) and the suspension was then heated under refluxing for 3 hrs to give a suspension. The reaction mixture was cooled to r.t. and the solid was collected by filtration to give N-(5-[1, 5]-naphthyridin-2-ylmethylene-4-oxo-4,5-dihydro-1H-imidazol-2-yl)-acetamide as a yellow solid, 15.3 mg (31.8%). HR-ES (+) m/e calcd. for C14H11N5O2: (M+H)+ 282.0986. Found: 282.0985.

reactant | 2-acetylamino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | 0.17 mmol, 47.1 mg | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=O)NC(C)=O | C13H13N3O4
reactant | 1,5-naphthyridine-6-carboxaldehyde | 0.2 mmol, 31.6 mg | N1=CC=CC2=NC(=CC=C12)C=O | C9H6N2O
reactant | piperidine | 0.05 mL | N1CCCCC1 | C5H11N
solvent | iPrOH | 5.0 mL | CC(C)O | C3H8O
product | N-(5-[1, 5]-naphthyridin-2-ylmethylene-4-oxo-4,5-dihydro-1H-imidazol-2-yl)-acetamide | N1=C(C=CC2=NC=CC=C12)C=C1C(N=C(N1)NC(C)=O)=O | C14H11N5O2
